US07915404B2
[3-(Isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester
To a stirred solution of isopropylhydrazine hydrochloride (92.4 g, 0.84 mol) and (3-oxo-propyl)-carbamic acid benzyl ester (173 g, 0.84 mol) in isopropyl alcohol (1.7 L) was added Et3N (140 mL, 1.0 mol) over 20 min. The resulting slurry was heated at reflux for 3 h, and then was cooled to rt and concentrated. The residue was partitioned between EtOAc (700 mL) and water (700 mL). The organic layer was washed with water (3×500 mL), satd. aq. NaCl (300 mL), dried (MgSO4), and concentrated to afford the title compound. The crude product was used in next reaction without purification. MS (ESI): exact mass calcd. for C14H21N3O2, 263.16; m/z found, 264.3 [M+H]+. 1H NMR (400 MHz, CDCl3): 7.36-7.25 (m, 5H), 7.02 (t, J=4.5, 1H), 5.10 (br s, 1H), 5.09 (s, 2H), 3.45-3.34 (m, 3H), 2.40-2.34 (m, 2H), 1.11 (d, J=6.4, 6H).

reactant | isopropylhydrazine hydrochloride | 0.84 mol, 92.4 g | Cl.C(C)(C)NN
reactant | (3-oxo-propyl)-carbamic acid benzyl ester | 0.84 mol, 173 g | C(C1=CC=CC=C1)OC(NCCC=O)=O | C11H13NO3
reactant | Et3N | 1.0 mol, 140 mL | CCN(CC)CC | C6H15N
solvent | isopropyl alcohol | 1.7 L | C(C)(C)O | C3H8O
product | [3-(Isopropyl-hydrazono)-propyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NCCC=NNC(C)C)=O | C14H21N3O2
